* A:\Dropbox\GitHub\quiz2matlab\et52b\lab07\TBJ06a.asc
V1 V1 0 {Vcc}
R1 V1 B {R1}
Rc V1 C {Rc}
Q1 C B E 0 BC546B
Re E 0 {Re}
R2 B 0 {R2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=50 R1=680k R2=150k Rc=100 Re=100
.meas VRc param V(V1)-V(c)
.meas VR1 param V(V1)-V(b)
.meas PR2 param VR2*I(R2)
.meas PRc param VRc*I(Rc)
.meas VRe param V(e)
.meas PRe param VRe*I(Re)
.meas VR2 param V(b)
.meas PR1 param VR1*I(R1)
.backanno
.end
